US05786474
N-Fluoro[1,3,2]dithiazinane-1,1,3,3-tetraoxide
0.5 l of a mixture of 10 parts by volume of fluorine and 90 parts by volume of nitrogen is introduced into a solution of 370 mg of [1,3,2]dithiazinane-1,1,3,3-tetraoxide (Geisler and Kuschmiers, "Chem. Ber." 91, p. 1881, 1958) in 23 ml of acetonitrile at -40° C. in the presence of 82 mg of sodium fluoride powder within 9 minutes. Then, it is flushed with pure nitrogen, concentrated by evaporation in a vacuum, taken up with dichloromethane, chromatographed on 60 g of silica gel, concentrated by evaporation in a vacuum, and recrystallized from acetone/hexane. 331 mg of N-fluoromethanesulfonimide is obtained as crystals with a melting point of 171°-172° C.

reactant | fluorine | FF | F2
reactant | [1,3,2]dithiazinane-1,1,3,3-tetraoxide | 370 mg | S1(NS(CCC1)(=O)=O)(=O)=O | C3H7NO4S2
reactant | sodium fluoride | 82 mg | [F-].[Na+]
solvent | acetonitrile | 23 ml | C(C)#N | C2H3N
product | N-Fluoro[1,3,2]dithiazinane-1,1,3,3-tetraoxide | FN1S(CCCS1(=O)=O)(=O)=O | C3H6FNO4S2
